US06326369B1
Ethyl 2-[3-(4-ethoxycarbonylphenoxy)propyl]-4,5,6,7-tetramethoxy-1-oxo-2-indancarboxylate
To a solution of ethyl 3-(2-bromo-3,4,5,6-tetramethoxyphenyl)-2-ethoxycarbonyl-2-[3-(4-ethoxycarbonylphenoxy)propyl]propionate (40.0 g) in THF (400 ml) was dropwise added n-butyl lithium in hexane (1.68M; 41.8 ml) under nitrogen atmosphere at −100° C. or under and the solution was allowed to warm to −78° C. in 30 min. The reaction mixture was cooled to −100° C. again and a solution of acetic acid (7.33 g) in THF (20 ml) was dropwise added, which was then allowed to warm to room temperature. The reaction mixture was diluted with ethyl acetate and the organic layer was washed with saturated aqueous sodium bicarbonate, water, and saturated aqueous sodium chloride, and dried. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography (hexane to hexane:ethyl acetate=7:1) to yield the entitled compound (29.7 g) as an oil.

reactant | ethyl 3-(2-bromo-3,4,5,6-tetramethoxyphenyl)-2-ethoxycarbonyl-2-[3-(4-ethoxycarbonylphenoxy)propyl]propionate | 40.0 g | BrC1=C(C(=C(C(=C1OC)OC)OC)OC)CC(C(=O)OCC)(CCCOC1=CC=C(C=C1)C(=O)OCC)C(=O)OCC | C30H39BrO11
reactant | n-butyl lithium | C(CCC)[Li]
reactant | acetic acid | 7.33 g | C(C)(=O)O | C2H4O2
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | hexane | 1.68M, 41.8 ml | CCCCCC | C6H14
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-[3-(4-ethoxycarbonylphenoxy)propyl]-4,5,6,7-tetramethoxy-1-oxo-2-indancarboxylate | 29.7 g | C(C)OC(=O)C1=CC=C(OCCCC2(C(C3=C(C(=C(C(=C3C2)OC)OC)OC)OC)=O)C(=O)OCC)C=C1 | C28H34O10
